US05571818
Ethyl 3-cyano-9-hydroxy-4-(3-nitrophenyl)-2-(1-pyrrolyl)-4H-naphtho[1,2-b]pyran-8-carboxylate (4 g) was dissolved in dry DMF (50 ml). Solid potassium carbonate (2.3 g) and methyl iodide (1.05 ml) were added and the mixture stirred at room temperature for 16 hours. The solution was poured into water (400 ml) and extracted with ethyl acetate (4×200 ml). The combined organic extracts were washed with water (2×250 ml), dried over magnesium sulphate, then solvent was removed under reduced pressure to yield a brown solid. This was triturated with ether (10 ml), the solid collected by filtration and dried to yield ethyl 3-cyano-9-methoxy-4-(3-nitrophenyl)-2-(1-pyrrolyl)-4H-naphtho[1,2-b]pyran-8-carboxylate as a dark yellow solid, m.p. 190°-191° C.

reactant | Ethyl 3-cyano-9-hydroxy-4-(3-nitrophenyl)-2-(1-pyrrolyl)-4H-naphtho[1,2-b]pyran-8-carboxylate | 4 g | C(#N)C=1C(C2=C(OC1N1C=CC=C1)C1=CC(=C(C=C1C=C2)C(=O)OCC)O)C2=CC(=CC=C2)[N+](=O)[O-] | C27H19N3O6
reactant | potassium carbonate | 2.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 1.05 ml | CI | CH3I
reactant | water | 400 ml | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | ethyl 3-cyano-9-methoxy-4-(3-nitrophenyl)-2-(1-pyrrolyl)-4H-naphtho[1,2-b]pyran-8-carboxylate | C(#N)C=1C(C2=C(OC1N1C=CC=C1)C1=CC(=C(C=C1C=C2)C(=O)OCC)OC)C2=CC(=CC=C2)[N+](=O)[O-] | C28H21N3O6
